US08067408B2
237(a) A mixture of N-{[3-bromo-5-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (150 mg, 0.23 mmol), {3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid (100 mg, 0.30 mmol), Na2CO3 (74 mg, 0.69 mmol), Pd(PPh3)4 (13.3 mg, 0.01 mmol), water (0.75 mL) in dioxane (2.25 mL) was degassed for 5 min. and then heated in a microwave for 30 min at 150° C. The reaction was quenched with water and then extracted with ethyl acetate twice. The combined organic layers were washed with water and brine. The organic layer was filtered though a 0.45 μM filter and then concentrated to give a crude residue. It was then purified using Combi Flash chromatography, eluting with 0 to 10% MeOH in DCM. The product fractions were combined and concentrated under vacuum to give 1,1-dimethylethyl (2S)-4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate as a solid (130 mg, 65%): LC-MS m/z 859 (M+H)+.

reactant | N-{[3-bromo-5-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.23 mmol, 150 mg | BrC=1C=C(C=C(C1)OC)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O4
reactant | {3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid | 0.30 mmol, 100 mg | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)B(O)O)C | C17H27BN2O4
reactant | Na2CO3 | 0.69 mmol, 74 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 0.75 mL | O | H2O
solvent | dioxane | 2.25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 13.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl (2S)-4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 130 mg, 65% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)CC | C49H62N8O6
